* Extracted by KLayout with SG13G2 LVS runset on : 28/07/2026 17:11

.SUBCKT LNA_77G_XTOR
Q$1 \$14 \$14 \$14 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$2 \$152 \$151 \$66 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$3 \$153 \$154 \$66 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$4 \$152 \$151 \$66 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$5 \$153 \$154 \$66 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$6 \$152 \$151 \$66 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$7 \$153 \$154 \$66 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$8 \$152 \$151 \$66 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$9 \$153 \$154 \$66 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$10 \$222 \$14 \$152 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$11 \$223 \$14 \$153 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$12 \$222 \$14 \$152 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$13 \$223 \$14 \$153 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$14 \$222 \$14 \$152 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$15 \$223 \$14 \$153 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$16 \$222 \$14 \$152 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$17 \$223 \$14 \$153 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
R$18 \$14 \$66 \$1 rppd w=7u l=38.8u ps=0u b=0 m=1
R$19 \$14 \$66 \$1 rppd w=7u l=38.8u ps=0u b=0 m=1
R$20 \$14 \$66 \$1 rppd w=7u l=38.8u ps=0u b=0 m=1
R$21 \$14 \$14 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$22 \$14 \$14 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$23 \$14 \$14 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$24 \$14 \$14 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$25 \$14 \$14 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$26 \$14 \$14 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$27 \$14 \$14 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$28 \$14 \$14 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$29 \$14 \$14 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$30 \$14 \$14 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$31 \$14 \$14 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$32 \$14 \$14 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$33 \$14 \$14 \$1 rppd w=2.5u l=10.53u ps=0u b=0 m=1
R$34 \$14 \$14 \$1 rppd w=3u l=18.23u ps=0u b=0 m=1
R$35 \$14 \$14 \$1 rppd w=3u l=18.23u ps=0u b=0 m=1
R$36 \$14 \$14 \$1 rppd w=3u l=18.23u ps=0u b=0 m=1
R$37 \$14 \$14 \$1 rppd w=3u l=18.23u ps=0u b=0 m=1
R$38 \$14 \$14 \$1 rppd w=3u l=18.23u ps=0u b=0 m=1
C$39 \$119 \$151 cap_cmim w=6.99u l=6.99u A=48.8601p P=27.96u m=1
C$43 \$223 \$14 cap_cmim w=6.99u l=6.99u A=48.8601p P=27.96u m=1
C$45 \$154 \$14 cap_cmim w=6.99u l=6.99u A=48.8601p P=27.96u m=1
.ENDS LNA_77G_XTOR
